US05663053
Boron tribromide (0.7 ml) was added to a suspension of 1-(7-carboxyheptyl)-4,5-bis(4-methoxyphenyl)-2-phenylimidazole (0.7 g) in anhydrous dichloromethane (20 ml ) and the reaction was stirred at room temperature for 1 h. Boron tribromide (0.3 ml) was added and the reaction was stirred at reflux for 2 h and at room temperature for 20 h. Water was carefully added to the cooled reaction mixture and the resulting yellow precipitate was collected. Column chromatography on silica gel eluted with a dichloromethane:methanol gradient and recrystallisation from ethanol and water gave 1-(7-carboxyheptyl)-4,5-bis-(4-hydroxyphenyl)-2-phenylimidazole (0.44 g, 67%) as a cream solid, m.p 135°-7°; Found C, 3.97; H, 6.38; N, 5.98%; C29H30N2O4 requires: C, 74.02; H, 6.42; N, 5.95%.

reactant | Boron tribromide | 0.7 ml | B(Br)(Br)Br | BBr3
reactant | 1-(7-carboxyheptyl)-4,5-bis(4-methoxyphenyl)-2-phenylimidazole | 0.7 g | C(=O)(O)CCCCCCCN1C(=NC(=C1C1=CC=C(C=C1)OC)C1=CC=C(C=C1)OC)C1=CC=CC=C1 | C31H34N2O4
reactant | Boron tribromide | 0.3 ml | B(Br)(Br)Br | BBr3
reactant | Water | O | H2O
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 1-(7-carboxyheptyl)-4,5-bis-(4-hydroxyphenyl)-2-phenylimidazole | 0.44 g, 67% | C(=O)(O)CCCCCCCN1C(=NC(=C1C1=CC=C(C=C1)O)C1=CC=C(C=C1)O)C1=CC=CC=C1 | C29H30N2O4
